US06906072B1
Reference Example 79 1-[4-cyano-4-(5-cyano-2-thienyl)-5-methylhexyl]-(3R)-3-tert-butoxycarbonylaminopyrrolidine
867 mg (3.49 mmol) of 4-cyano-4-(5-cyano-2-thienyl)-5-methylhexanol was dissolved in 20 ml of acetonitrile. 0.58 ml (1.20 eq).of triethylamine and 0.30 ml (1.10 eq) of mesyl chloride were added thereto. After 10 minutes, brine was added, and the objective product was extracted with ethylacetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a crude product. The product was dissolved in 30 ml of acetonitrile, 1.57 g (3.00 eq) of sodium iodine, 0.54 ml (1.10 eq) of triethylamine and 845 mg (4.54 mmol) of (3R)-3-tert-butoxycarbonylaminopyrrolidine were added, and the mixture was heated at 60° C. After completion of the reaction, brine was added, and the objective product was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a crude product. The crude product was subjected to 100 g of Cromatorex NH silica gel (ethyl acetate:hexane=25 to 35% of ethyl acetate), to give 1.34 g (3.21 mmol, 92.0%) of the title compound as a yellow oil. The physico-chemical data of the compound was as below.

reactant | 4-cyano-4-(5-cyano-2-thienyl)-5-methylhexanol | 3.49 mmol, 867 mg | C(#N)C(CCCO)(C(C)C)C=1SC(=CC1)C#N | C13H16N2OS
reactant | mesyl chloride | 0.30 ml, 1.10 eq | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium iodine | 1.57 g, 3.00 eq | [I].[Na]
reactant | (3R)-3-tert-butoxycarbonylaminopyrrolidine | 4.54 mmol, 845 mg | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.54 ml, 1.10 eq | C(C)N(CC)CC | C6H15N
product | 1-[4-cyano-4-(5-cyano-2-thienyl)-5-methylhexyl]-(3R)-3-tert-butoxycarbonylaminopyrrolidine | 3.21 mmol, 1.34 g, 92.0% | C(#N)C(CCCN1C[C@@H](CC1)NC(=O)OC(C)(C)C)(C(C)C)C=1SC(=CC1)C#N | C22H32N4O2S
